US04388451
A 2-allylphenol-N-phenylmaleimide copolymer was prepared by conventional free radical solution polymerization. A solution of 51.60 g N-phenylmaleimide and 1.48 g azobisisobutyronitrile in 100 g THF was added over two hours to a heated (79° C.) solution of 0.76 g naphthalene in 40.00 g 2-allylphenol under nitrogen. The solution was heated an additional 24 hours at 74° C., then cooled, and added to diethyl ether. The polymer was filtered and dried. Conversion was to 73%.

reactant | N-phenylmaleimide | 51.60 g | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
reactant | azobisisobutyronitrile | 1.48 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | naphthalene | 0.76 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | 2-allylphenol | 40.00 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
product | 2-allylphenol N-phenylmaleimide | C(C=C)C1=C(C=CC=C1)O.C1(=CC=CC=C1)N1C(C=CC1=O)=O | InChI=1S/C10H7NO2.C9H10O/c12-9-6-7-10(13)11(9)8-4-2-1-3-5-8;1-2-5-8-6-3-4-7-9(8)10/h1-7H;2-4,6-7,10H,1,5H2
